US08486940B2
1-(1H-benzo[d]imidazol-5-yl)-5-(4-morpholinophenyl)imidazolidin-2-one
The compound was synthesized starting from 1H-benzo[d]imidazol-5-amine (0.333 g, 2.5 mmol), 4-morpholinobenzaldehyde (0.473 g, 2.5 mmol), TMSCN (0.375 mL, 3 mmol), Pd/C (10%, 0.02 g), TEA 1 mL, 7.2 mmol), di-(imidazol-1-yl)methanone (0.600 g, 3.7 mmol) as described in method 2.

reactant | 1H-benzo[d]imidazol-5-amine | 2.5 mmol, 0.333 g | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 4-morpholinobenzaldehyde | 2.5 mmol, 0.473 g | O1CCN(CC1)C1=CC=C(C=O)C=C1 | C11H13NO2
reactant | TMSCN | 3 mmol, 0.375 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | di-(imidazol-1-yl)methanone | 3.7 mmol, 0.600 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
catalyst | Pd/C | 0.02 g | [Pd] | Pd
product | 1-(1H-benzo[d]imidazol-5-yl)-5-(4-morpholinophenyl)imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NCC2C2=CC=C(C=C2)N2CCOCC2)=O | C20H21N5O2
